### PR TITLE
fixes #711

### LINKED ISSUE #711: redundancy
https://github.com/math-comp/analysis/blob/3974d98bd199220b7e637db580a40b2fd54f12c1/theories/topology.v#L4427-L4442

with the module `Bigminr` in `normedtype.v`

### PR DESCRIPTION
**Pull request by affeldt-aist**
##### Motivation for this change

fixes #711

There was a section about bigmin in normedtype.v that was specialized to realDomainType
whereas there was a section about bigmax in topology.v that was using orderType.
This PR generalizes slightly the bigmin lemmas, bring them to topology.v, this highlights
a few factorizations, and this allows for simplifying the naming scheme (we can drop the `r`
that were marking numeric types).
It can still be cleaned up a bit but that's already an improvement imo.

fyi @proux01

TODO: just after merge: mathcomp issue about bigmax_sup

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`
- [ ] added corresponding documentation in the headers

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and put a milestone if possible.

### CODE REVIEW

File: theories/normedtype.v [hunk 1]
```diff
@@ -1694,41 +1694,62 @@ rewrite near_map => /nbhs_ballP[_/posnumP[a]] + xl; apply.
 by move/cvg_ball : xl => /(_ _ (gt0 a))/nbhs_ballP[_/posnumP[b]]; apply.
 Qed.
 
-Module Bigminr.
-Section bigminr.
-Variable (R : realDomainType).
+Lemma bigminr_mkcond d (R : orderType d) I r (P : pred I) (F : I -> R) x :
+  \big[Order.min/x]_(i <- r | P i) F i =
+     \big[Order.min/x]_(i <- r) (if P i then F i else x).
```
Comment (proux01) [inline theories/normedtype.v:1699]: Maybe rather than having this specific to min, this can be generalized to any idempotent operator?
(I would then move that to mathcomp_extra if not already in MC)

File: theories/normedtype.v [hunk 2]
```diff
@@ -1694,41 +1694,62 @@ rewrite near_map => /nbhs_ballP[_/posnumP[a]] + xl; apply.
...
+by rewrite big_cons {1}ih minCA.
+Qed.
+Arguments bigminr_mkcond {d R I r}.
 
-Lemma bigminr_maxr I r (P : pred I) (F : I -> R) x :
-  \big[minr/x]_(i <- r | P i) F i = - \big[maxr/- x]_(i <- r | P i) - F i.
+Lemma bigminr_split d (R : orderType d) I r (P : pred I) (F1 F2 : I -> R) x :
+  \big[Order.min/x]_(i <- r | P i) (Order.min (F1 i) (F2 i)) =
+  Order.min (\big[Order.min/x]_(i <- r | P i) F1 i)
+            (\big[Order.min/x]_(i <- r | P i) F2 i).
```
Comment (proux01) [inline theories/normedtype.v:1711]: Why can't we use a generic split lemma on bigop and AC operators?

File: theories/normedtype.v [hunk 3]
```diff
@@ -1694,41 +1694,62 @@ rewrite near_map => /nbhs_ballP[_/posnumP[a]] + xl; apply.
...
+elim/big_rec3: _ => [|i y z _ _ ->]; rewrite ?minxx //.
+by rewrite minCA -!minA minCA.
 Qed.
 
-Lemma bigminr_mkcond I r (P : pred I) (F : I -> R) x :
-  \big[minr/x]_(i <- r | P i) F i =
-     \big[minr/x]_(i <- r) (if P i then F i else x).
+Lemma bigminr_idl d (R : orderType d) I r (P : pred I) (F : I -> R) x :
+  \big[Order.min/x]_(i <- r | P i) F i =
+  Order.min x (\big[Order.min/x]_(i <- r | P i) F i).
```
Comment (proux01) [inline theories/normedtype.v:1719]: I would also expect this to be true for any idempotent and AC operator

File: theories/normedtype.v [hunk 4]
```diff
@@ -1694,41 +1694,62 @@ rewrite near_map => /nbhs_ballP[_/posnumP[a]] + xl; apply.
...
+by rewrite big_cons minCA -ihl.
 Qed.
 
-Lemma bigminr_split I r (P : pred I) (F1 F2 : I -> R) x :
-  \big[minr/x]_(i <- r | P i) (minr (F1 i) (F2 i)) =
-  minr (\big[minr/x]_(i <- r | P i) F1 i) (\big[minr/x]_(i <- r | P i) F2 i).
+Lemma bigminrID d (R : orderType d) I r (a P : pred I) (F : I -> R) x :
+  \big[Order.min/x]_(i <- r | P i) F i =
+  Order.min (\big[Order.min/x]_(i <- r | P i && a i) F i)
+            (\big[Order.min/x]_(i <- r | P i && ~~ a i) F i).
```
Comment (proux01) [inline theories/normedtype.v:1729]: Would also expect a generic bigop lemma here on AC operators

**Review by proux01 — COMMENTED** [review]
Unfortunately min/max have no canonical neutral element but looks like we still have some bigop theory for associative (commutative) and idempotent operators, maybe worth adding to bigop in MC? (and temporarily to mathcomp_extra here)

File: theories/mathcomp_extra.v [hunk 5]
```diff
@@ -437,3 +437,318 @@ Proof. by rewrite big_seq_fsetE/= sum1_card cardfE. Qed.
...
+Lemma bigD1 (T : Type) op (I : finType) j (P : pred I) (F : I -> T) x :
+  idempotent op -> associative op -> commutative op ->
+  P j -> \big[op/x]_(i | P i) F i
+    = op (F j) (\big[op/x]_(i | P i && (i != j)) F i).
+Proof.
+move=> opxx opA opC.
+have opCA : left_commutative op by move=> u v w; rewrite opA (opC u) -opA.
+move=> Pj; rewrite (bigID _ (pred1 j))// [in RHS]big_idl// opA.
+by congr op; apply: big_pred1 => i; rewrite /= andbC; case: eqP => //->.
+Qed.
```
Comment (proux01) [inline theories/mathcomp_extra.v:526]: We don't need idempotence here:
```suggestion
Lemma bigD1 (T : Type) op (I : finType) j (P : pred I) (F : I -> T) x :
  left_commutative op -> P j ->
  \big[op/x]_(i | P i) F i = op (F j) (\big[op/x]_(i | P i && (i != j)) F i).
Proof.
move=> opCA; move: (index_enum_uniq I) (mem_index_enum j).
elim: index_enum => [//|a l ihl]; rewrite cons_uniq => /andP[+ ul] => /[swap].
rewrite in_cons => /orP[/eqP<-|jl anl Pj]; rewrite !big_cons; last first.
  have -> : a != j by case: eqP jl anl => // -> ->.
  by case: (P a); rewrite ihl// opCA.
rewrite eqxx => jnl /[dup] Pj -> /=.
congr op; rewrite big_seq_cond [RHS]big_seq_cond; apply: eq_bigl => i.
case il: (i \in l) => [/=|//].
by case: (@eqP _ i j) il jnl => [-> -> //|]; rewrite andbT.
Qed.
```
but I don't know what should be the name?

File: theories/mathcomp_extra.v [hunk 6]
```diff
@@ -437,3 +437,318 @@ Proof. by rewrite big_seq_fsetE/= sum1_card cardfE. Qed.
...
+Proof. by rewrite NoMonoidBigop.big_mkcond//; [exact: maxxx|exact: maxCA]. Qed.
+
+Lemma bigmax_split I r (P : pred I) (F1 F2 : I -> T) x :
+  \big[max/x]_(i <- r | P i) (max (F1 i) (F2 i)) =
+  max (\big[max/x]_(i <- r | P i) F1 i) (\big[max/x]_(i <- r | P i) F2 i).
+Proof. by rewrite NoMonoidBigop.big_split//; [exact: maxxx|exact: maxACA]. Qed.
+
+Lemma bigmax_idl I r (P : pred I) (F : I -> T) x :
+  \big[max/x]_(i <- r | P i) F i = max x (\big[max/x]_(i <- r | P i) F i).
+Proof. by rewrite [in LHS]big_idl//; [exact: maxxx|exact: maxCA]. Qed.
```
Comment (proux01) [inline theories/mathcomp_extra.v:583]: Maybe add `bigmax_idr` just for completeness

File: theories/mathcomp_extra.v [hunk 7]
```diff
@@ -437,3 +437,318 @@ Proof. by rewrite big_seq_fsetE/= sum1_card cardfE. Qed.
...
+Proof. by rewrite NoMonoidBigop.big_mkcond//; [exact: minxx|exact:minCA]. Qed.
+
+Lemma bigmin_split I r (P : pred I) (F1 F2 : I -> R) x :
+  \big[min/x]_(i <- r | P i) (min (F1 i) (F2 i)) =
+  min (\big[min/x]_(i <- r | P i) F1 i) (\big[min/x]_(i <- r | P i) F2 i).
+Proof. by rewrite NoMonoidBigop.big_split//; [exact: minxx|exact: minACA]. Qed.
+
+Lemma bigmin_idl I r (P : pred I) (F : I -> R) x :
+  \big[min/x]_(i <- r | P i) F i = min x (\big[min/x]_(i <- r | P i) F i).
+Proof. by rewrite [in LHS]big_idl//; [exact: minxx|exact: minCA]. Qed.
```
Comment (proux01) [inline theories/mathcomp_extra.v:681]: maybe add `bigmin_idr`

File: theories/mathcomp_extra.v [hunk 8]
```diff
@@ -437,3 +437,318 @@ Proof. by rewrite big_seq_fsetE/= sum1_card cardfE. Qed.
...
+
+Lemma le_bigmax_cond (I : finType) (P : pred I) (F : I -> T) x i0 :
+  P i0 -> F i0 <= \big[max/x]_(i | P i) F i.
+Proof. by move=> Pi0; rewrite (bigmaxD1 _ _ Pi0) le_maxr lexx. Qed.
+
+Lemma le_bigmax (I : finType) (F : I -> T) (i0 : I) x :
+  F i0 <= \big[max/x]_i F i.
+Proof. exact: le_bigmax_cond. Qed.
+
+(* NB: bigop.bigmax_sup already exists for nat *)
```
Comment (proux01) [inline theories/mathcomp_extra.v:610]: Yes, it should be renamed `bigmax_sup_nat`, that will require some painful deprecation phase

**Review by proux01 — APPROVED** [review]
I'm not fond of the module thing (think about situations were one would have both idempotent operators and monoids), otherwise this looks great.

**Comment by proux01** [comment]
@affeldt-aist I've opened a first backporting PR on MathComp: https://github.com/math-comp/math-comp/pull/910 (and adapted the current PR)
